US07687515B2
4-Amino-6-(4-methoxy-3-trifluoromethyl-phenyl)-3-nitro-pyridine-2-carbonitrile (65 mg, 0.19 mmol) was suspended in methanol (1.5 ml) and concentrated HCl (0.5 ml) was added dropwise (exotherm). The suspension was stirred while iron powder (37 mg, 0.67 mmol) was added in portions (exotherm), and the mixture was heated to reflux for 1 hour. Mixture was poured into water (20 ml) and extracted with ethyl acetate (20 ml). Organics were dried and evaporated then flash chromatographed over silica (4 g Combiflash cartridge, 7:3 heptane/ethyl acetate) to afford 29 mg of 3,4-diamino-6-(4-methoxy-3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile as a light brown solid. 1H NMR (DMSO) δ 8.08-8.01 (m, 2H) 7.05-7.00 (m, 2H), 3.94 (s, 3H). MS m/z 309.7 (M+1).

reactant | 4-Amino-6-(4-methoxy-3-trifluoromethyl-phenyl)-3-nitro-pyridine-2-carbonitrile | 0.19 mmol, 65 mg | NC1=C(C(=NC(=C1)C1=CC(=C(C=C1)OC)C(F)(F)F)C#N)[N+](=O)[O-] | C14H9F3N4O3
reactant | HCl | 0.5 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | methanol | 1.5 ml | CO | CH4O
catalyst | iron | 0.67 mmol, 37 mg | [Fe] | Fe
product | 3,4-diamino-6-(4-methoxy-3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | 29 mg | NC=1C(=NC(=CC1N)C1=CC(=C(C=C1)OC)C(F)(F)F)C#N | C14H11F3N4O
